US07091199B1
Preparation of (4-chloro-benzyl)-[3-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-propyl]-amine (Scheme I, Compound 1)
The title compound is prepared from a mixture of 3-[3-(3-bromo-propoxy)phenyl]-thieno[2,3-d]isoxazole, 3-[3-(3-chloro-propoxy)-phenyl]-thieno[2,3-d]isoxazole, 4-chlorobenzylamine and potassium carbonate essentially as described above in example 4. Purity by LC/MS (APCI)=100%, [M+H]+=399 m/e.

reactant | 3-[3-(3-bromo-propoxy)phenyl]-thieno[2,3-d]isoxazole | BrCCCOC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C14H12BrNO2S
reactant | 3-[3-(3-chloro-propoxy)-phenyl]-thieno[2,3-d]isoxazole | ClCCCOC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C14H12ClNO2S
reactant | 4-chlorobenzylamine | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | (4-chloro-benzyl)-[3-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-propyl]-amine | ClC1=CC=C(CNCCCOC2=CC(=CC=C2)C2=NOC3=C2SC=C3)C=C1 | C21H19ClN2O2S
